US07381822B2
2-phenyl-piperazine.
2-Oxo-3-phenyl-piperazine (1.76 g, 10 mmol), in 30 mL of anhydrous THF was added dropwise to a 20 mL (20 mmol) of 1M solution of LiAH4 in THF, and the mixture was stirred at room temperature for 24 h. After workup (water, 20% NaOH addition to destroy excess LiAH4), the mixture was filtered and the filter cake was reextracted with ethyl acetate. The combined organic filtrate and extracts were dried over MgSO4, filtered and evaporated to give an slightly yellow solid that was purified by silica gel column chromatography (CHCl3:MeOH:NH4OH/9:1:0.1). The reduced product was isolated as a colorless solid (960 mg, 6 mmol, 60%). 1H NMR (CDCl3): δ 2.69 (1H, t, J=11.3), 2.85-3.10 (7H, m), 3.76 (1H, br d, J=8.9), 7.21-7.38 (5H, m). mp (free base): 79°-81° C.

reactant | 2-Oxo-3-phenyl-piperazine | 10 mmol, 1.76 g | O=C1NCCNC1C1=CC=CC=C1 | C10H12N2O
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-phenyl-piperazine | 6 mmol, 960 mg, 60% | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
